US06716851B2
4-(2-Chloro-5-methoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (25 mg, 0.096 mmol) and 2-chloro-5-methoxyaniline (23 mg, 0.144 mmol) similar to Example 92 and isolated as a white solid (11 mg, 48%). 1H NMR (CDCl3): 8.84-8.82 (m, 1H), 8.58-8.54 (m, 1H), 7.90-7.85 (m, 1H), 7.66 (s, 1H), 7.60 (s, 1H), 7.46-7.41 (m, 1H), 7.37 (d, J=8.7 Hz, 1H), 7.01 (s, 1H), 6.75 (dd, J=3.0, 8.7 Hz, 1H), 3.88 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.096 mmol, 25 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 2-chloro-5-methoxyaniline | 0.144 mmol, 23 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C(C=C1)OC | C17H12ClF3N4O
